US07989480B2
(S)-2-tert-Butoxycarbonylamino-3-{4-[2-(4-phenoxy-phenoxy)-ethoxy]-phenyl}-propionic acid methyl ester
To a solution of 1-(2-Bromo-ethoxy)-4-phenoxy-benzene (2.5 g, 8.53 mmol), potassium carbonate (3.21 g, 23.3 mmol), and N,N-Dimethylformamide (150 mL) was added Boc-L-Tyrosine methyl ester (2.3 g, 7.75 mmol). The mixture was poured into 200 mL water solution and extracted with ethyl acetate (EtOAc) (3×100 mL). The combined organic layers were washed with brine (40 mL) and dried over anhydrous Na2SO4. The organic layer was concentrated in vacuo to obtain the crude mixture, which was purified by of silica gel flash chromatography, using EtOAc/hexane (gradient system), to obtain the product (2.54 g, 59%): 1H NMR (400 MHz, CDCL3).

reactant | 1-(2-Bromo-ethoxy)-4-phenoxy-benzene | 8.53 mmol, 2.5 g | BrCCOC1=CC=C(C=C1)OC1=CC=CC=C1 | C14H13BrO2
reactant | potassium carbonate | 23.3 mmol, 3.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-Dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
reactant | Boc-L-Tyrosine methyl ester | 7.75 mmol, 2.3 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C15H21NO5
solvent | water | 200 mL | O | H2O
product | (S)-2-tert-Butoxycarbonylamino-3-{4-[2-(4-phenoxy-phenoxy)-ethoxy]-phenyl}-propionic acid methyl ester | 2.54 g, 59% | COC([C@H](CC1=CC=C(C=C1)OCCOC1=CC=C(C=C1)OC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C29H33NO7
